US06992087B2
Preparation of 5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a light golden amorphous solid. IR (diffuse reflectance) 3446, 2969, 2931, 2893, 2874, 1604, 1562, 1517, 1487, 1392, 1372, 1208, 1174, 1123, 1089 cm−1; OAMS supporting ions at: ESI+ 446.3; MS (EI) m/z 445 (M+); HRMS (FAB) calcd for C27H35N5O+H1 446.2920, found 446.2915. [α]25D=−89 (c 0.47, methylene chloride); Anal. Calcd for C27H35N5O: C, 72.78; H, 7.92; N, 15.72. Found: C, 72.58; H, 7.94; N, 15.59.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC)C)C | C25H31N5O
product | 5-[6-(dimethylamino)-4-methylpyridin-3-yl]-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC)C)C | C27H35N5O
